US05480873
N-Benzyloxy-4,5-diacetoxy-9,10-dihydro-9,10-dioxoanthracene-2-carboxamide
To a stirred solution of 4,5-diacetoxy-9,10-dihydro-9,10-dioxoanthracene-2-carboxylic acid (6.14 g) in dry dimethylformamide (1.1 l) and nitrogen at -15° C. was added dropwise N-methylmorpholine (3.71 g) as a solution in dimethylformamide (20 ml) during 5 minutes. Stirring at -15° C. was continued for 40 minutes before the dropwise addition of isobutylchloroformate (2.51 g) as a solution in dimethylformamide (10 ml) over 10 minutes. The mixture was stirred at -15° C. for 45 minutes when a solution of O-benzylhydroxylamine hydrochloride (2.93 g) in dimethylformamide (20 ml) was added dropwise. Stirring was continued for 5 hours at -15° C. and the mixture was then allowed to warm to room temperature. After 16 hours at room temperature, the dark solution was concentrated in vacuo. The gummy residue was triturated with ethyl acetate to yield a bright yellow solid. This was triturated with tetrahydrofuran and the insoluble material then washed with 5% aqueous sodium bicarbonate solution. The insoluble yellow solid was washed with water and dried in vacuo yielding the title compound, m.p. 192°-194° C.

reactant | 4,5-diacetoxy-9,10-dihydro-9,10-dioxoanthracene-2-carboxylic acid | 6.14 g | C(C)(=O)OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC(C)=O)=O)C(=O)O | C19H12O8
reactant | N-methylmorpholine | 3.71 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 2.51 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | O-benzylhydroxylamine hydrochloride | 2.93 g | Cl.C(C1=CC=CC=C1)ON
solvent | dimethylformamide | 1.1 l | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-Benzyloxy-4,5-diacetoxy-9,10-dihydro-9,10-dioxoanthracene-2-carboxamide | C(C1=CC=CC=C1)ONC(=O)C1=CC=2C(C3=CC=CC(=C3C(C2C(=C1)OC(C)=O)=O)OC(C)=O)=O | C26H19NO8
